US07772246B2
To solution of the {3-(1-Benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-4-[2-((S)-2-hydroxy-propylamino)-pyrimidin-4-yl]-pyrazol-1-yl}-acetonitrile (C-1-6) (145 mg, 0.28 mmol) in THF (5 mL) at −40° C. was added sodium hydroxide (1.1 mL of a 10 mg/mL solution in MeOH, 0.28 mmol). The mixture was allowed to slowly warm to 0° C. After 2 hr the mixture was diluted with 10 mL THF and stirring continued at 0° C. for 2 hr. Mixture was partitioned between pH 7 phosphate buffer and ethyl acetate. The aqueous layer was extracted twice with ethyl acetate. The combined organics were washed with saturated aqueous NaCl, dried over MgSO4 and reduced to minimum volume. The residue was purified by HPLC to give the [4-[2-((S)-2-Hydroxy-propylamino)-pyrimidin-4-yl]-3-(1H-pyrrolo[2,3-b]pyridin-5-yl)-pyrazol-1-yl]-acetonitrile (C-1) in 23% yield. 1H NMR (400 MHz, ACETONITRILE-d3) δ ppm 9.78 (br. s., 1H), 8.42 (d, J=2.02 Hz, 1H), 8.22 (s, 1H), 8.05-8.14 (m, 2H), 7.38-7.45 (m, 1H), 6.42-6.56 (m, 2H), 5.74 (br. s., 1H), 5.25 (s, 2H), 3.72 (br. s., 1H), 3.19 (br. s., 1H), 3.04 (br. s., 1H), 0.95 (br. s., 3H).

reactant | {3-(1-Benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-4-[2-((S)-2-hydroxy-propylamino)-pyrimidin-4-yl]-pyrazol-1-yl}-acetonitrile | 0.28 mmol, 145 mg | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C2=NN(C=C2C2=NC(=NC=C2)NC[C@H](C)O)CC#N | C25H22N8O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | [4-[2-((S)-2-Hydroxy-propylamino)-pyrimidin-4-yl]-3-(1H-pyrrolo[2,3-b]pyridin-5-yl)-pyrazol-1-yl]-acetonitrile | 23% yield | O[C@H](CNC1=NC=CC(=N1)C=1C(=NN(C1)CC#N)C=1C=C2C(=NC1)NC=C2)C | C19H18N8O
